US07820665B2
Step 2. N-(6-(6-chloro-5-(methylsulfonamido)pyridin-3-yl)imidazo[1,2-b]pyridazin-2-yl)acetamide
To a 25 mL round-bottomed flask was added N-(6-chloroimidazo[1,2-b]pyridazin-2-yl)acetamide (0.750 g, 3.56 mmol), bis(pinacolato)diboron (1.18 g, 4.63 mmol, Aldrich, St. Louis, Mo.), DMSO (30.0 mL, 423 mmol) and potassium acetate (1.40 g, 14.2 mmol). The mixture was carefully evacuated and backfilled with N2. To the mixture was added dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II)dichloromethane adduct (0.291 g, 0.356 mmol, Strem Chemical, Inc., Newburyport, Mass.). The mixture was carefully evacuated and backfilled with N2 and then was stirred at 90° C. for 2 h. The reaction was allowed to cool to rt and treated with N-(5-bromo-2-chloropyridin-3-yl)methanesulfonamide (1.00 g, 3.50 mmol), and aq sodium carbonate (5.25 mL, 10.5 mmol, 2 M). The mixture was carefully evacuated and backfilled with N2. To the mixture was added trans-dichlorobis(triphenylphosphine)palladium(II) (0.246 g, 0.350 mmol, Strem Chemical, Inc., Newburyport, Mass.). Again, the mixture was carefully evacuated and backfilled with N2 and was stirred at 90° C. for 1 h. The reaction mixture was cooled to rt and concentrated in vacuo. The residue was taken up in 10 mL DMSO and 20 mL MeOH. The solution was filtered. The filtercake was isolated and suspended in water (50 mL) and treated with pH 4.8 buffer (25 mL, Teknova, 3 M sodium acetate solution pH adjusted to 4.8). The solution was allowed to stand for 30 minutes and then filtered. The filtercake was washed with water and then dried under vacuum to afford the title compound as a tan solid (0.415 g, 31%). MS (ESI, positive ion) m/z: 381 (M+1). 1H NMR (400 MHz, DMSO-d6) δ ppm 2.12 (s, 3H), 3.17 (s, 3H), 7.85 (d, J=9.4 Hz, 1H), 8.14 (d, J=9.4 Hz, 1H), 8.34 (s, 1H), 8.43 (s, 1H), 8.89 (s, 1H), 9.92 (s, 1H), 10.95 (s, 1H).

reactant | N-(6-chloroimidazo[1,2-b]pyridazin-2-yl)acetamide | 3.56 mmol, 0.750 g | ClC=1C=CC=2N(N1)C=C(N2)NC(C)=O | C8H7ClN4O
reactant | bis(pinacolato)diboron | 4.63 mmol, 1.18 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | DMSO | 423 mmol, 30.0 mL | CS(=O)C | C2H6OS
reactant | potassium acetate | 14.2 mmol, 1.40 g | C(C)(=O)[O-].[K+]
reactant | N-(5-bromo-2-chloropyridin-3-yl)methanesulfonamide | 3.50 mmol, 1.00 g | BrC=1C=C(C(=NC1)Cl)NS(=O)(=O)C | C6H6BrClN2O2S
reactant | sodium carbonate | 10.5 mmol, 2 M, 5.25 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium acetate | 3 M | C(C)(=O)[O-].[Na+]
solvent | water | 50 mL | O | H2O
catalyst | trans-dichlorobis(triphenylphosphine)palladium(II) | 0.350 mmol, 0.246 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | N-(6-(6-chloro-5-(methylsulfonamido)pyridin-3-yl)imidazo[1,2-b]pyridazin-2-yl)acetamide | 0.415 g, 31% | ClC1=C(C=C(C=N1)C=1C=CC=2N(N1)C=C(N2)NC(C)=O)NS(=O)(=O)C | C14H13ClN6O3S
